US04233300
By substituting 1-(4-methylbenzoyl)-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester for the 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester in the procedure of Example 1 a and proceeding as in parts b, c and d, 5-chloro-2-methyl-8-4-methylbenzoyl)-8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine and N-butyl-2-methyl-8-(4-methylbenzoyl)-8H-pyrazolo[1,5-a]-pyrazolo[4',3':5,6]pyrido[3,4-pyrimidin-5-amine, respectively, are obtained.

reactant | 1-(4-methylbenzoyl)-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | CC1=CC=C(C(=O)N2N=CC=3C2=NC=C(C3NN)C(=O)OCC)C=C1 | C17H17N5O3
reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
product | 8H-pyrazolo[1,5-a]pyrazolo[4',3':5,6]pyrido[3,4-e]pyrimidine | N1=CC=C2N1C1=C(C=N2)C=NC2=C1C=NN2 | C10H6N6
